US07279600B2
Trifluoro-methanesulfonic acid 4-formyl-2-methyl-phenyl ester
The title compound was prepared by reacting 4-hydroxy-3-methylbenzaldehyde (2.5 g, 18.4 mmol) with trifluoromethanesulfonic anhydride (4.0 mL, 6.75 g, 23.9 mmol) according to Method D to yield a brown oil which was used directly in the next step without purification.

reactant | 4-hydroxy-3-methylbenzaldehyde | 18.4 mmol, 2.5 g | OC1=C(C=C(C=O)C=C1)C | C8H8O2
reactant | trifluoromethanesulfonic anhydride | 23.9 mmol, 4.0 mL, 6.75 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | Trifluoro-methanesulfonic acid 4-formyl-2-methyl-phenyl ester | C(=O)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)C | C9H7F3O4S
